US04889851
To a mixture of 4-chloroaniline (14.51 g) and 4-methoxy-2-nitrobenzenesulfonyl chloride (28.54 g) was added dropwise aqueous sodium hydroxide solution (0.7 N, 162 ml) over a period of 30 minutes at 70° C. After addition, the mixture was stirred for 30 minutes at the same temperature. The colled mixture was diluted with aqueous IN-hydrochloric acid. The separated oil was extracted with ethyl acetate. The extract was dried over magnesium sulfate and concentrated under reduced pressure. The yellow solid was triturated with n-hexame and collected by filtration to yield 4-methoxy-2-nitro-N-(4-chlorophenyl) benzenesulfonamide (37,23 g).

reactant | 4-chloroaniline | 14.51 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | 4-methoxy-2-nitrobenzenesulfonyl chloride | 28.54 g | COC1=CC(=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C7H6ClNO5S
reactant | sodium hydroxide | 0.7 N, 162 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 4-methoxy-2-nitro-N-(4-chlorophenyl) benzenesulfonamide | 37,23 g | COC1=CC(=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)Cl)[N+](=O)[O-] | C13H11ClN2O5S
